US05708008
5-(3-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 17.0 mg (0.15 mMol) 3-furoic acid, 13.8 mg (85%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 3-furoic acid | 0.15 mMol, 17.0 mg | O1C=C(C=C1)C(=O)O | C5H4O3
product | 5-(3-furoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 13.8 mg, 85% | O1C=C(C=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H21N3O2
